### PR TITLE
feat(Data/List): list splitting definitions and lemmas

### PR DESCRIPTION
**Pull request by rudynicolop**
Adds definitions and lemmas for obtaining all prefixes and suffixes of lists.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/TakeDrop.lean [hunk 1]
```diff
@@ -150,6 +150,69 @@ theorem span_eq_takeWhile_dropWhile (l : List α) : span p l = (takeWhile p l, d
...
+@[simp]
+lemma splits_nil : (List.nil (α:=α)).splits= [([], [])] := by rfl
+
+@[simp]
+lemma splits_cons (x : α) (xs : List α) :
+    List.splits (x :: xs) =
+    ([], x :: xs) :: List.map (fun td ↦ (x :: td.1, td.2)) (List.splits xs) := by
+  simp [List.splits, List.range_succ_eq_map]
+
+lemma splits_spec (x y l : List α) :
```
Comment (BoltonBailey) [inline Mathlib/Data/List/TakeDrop.lean:170]: It would be more common in mathlib to name a lemma like this something like `mem_splits_iff`

File: Mathlib/Data/List/TakeDrop.lean [hunk 2]
```diff
@@ -150,6 +150,69 @@ theorem span_eq_takeWhile_dropWhile (l : List α) : span p l = (takeWhile p l, d
...
+    rw [←htake, ←hdrop, List.take_append_drop]
+  · rintro rfl
+    exists x.length
+    constructor
+    · simp; omega
+    · constructor
+      · rw [List.take_left]
+      · rw [List.drop_left]
+
+lemma splits_non_empty (l : List α) : ∃ td, td ∈ l.splits := by
```
Comment (BoltonBailey) [inline Mathlib/Data/List/TakeDrop.lean:184]: I would write this lemma with explicit choice for the member, i.e
```
lemma nil_self_mem_splits (l : List α) : ([], l) ∈ l.splits := by
```
or
```
lemma self_nil_mem_splits (l : List α) : (l, []) ∈ l.splits := by
```
or better yet, both.

File: Mathlib/Data/List/TakeDrop.lean [hunk 3]
```diff
@@ -150,6 +150,69 @@ theorem span_eq_takeWhile_dropWhile (l : List α) : span p l = (takeWhile p l, d
...
+  exists ([], l)
+  simp [List.splits_spec]
+
+/-- Left-associative triple splits of a list. -/
+def splits3_l : List α → List (List α × List α × List α) :=
```
Comment (BoltonBailey) [inline Mathlib/Data/List/TakeDrop.lean:189]: Do we need the triple splits? It might be easier, in cases where something like this is needed, to just deal with two applications of the basic splits function and use the API there, this way we don't have to think about quadruple splits and API for triple splits and so on.

**Review by BoltonBailey — CHANGES_REQUESTED** [review]
Thanks, here are some comments.

File: Mathlib/Data/List/TakeDrop.lean (hunk 3 above)
Comment (rudynicolop) [reply Mathlib/Data/List/TakeDrop.lean:189]: I am planning on submitting a PR after this which depends upon triple splits.

In this future PR I reason about operations over weighted languages, which requires the `splits` function in order to perform a cauchy product. In order to prove associativity of this operation, I need the notion of triple splits, and I need to show that the result of the operations from left and right associative triple splits are equal.

**Comment by rudynicolop** [comment]
Thanks for the feedback @BoltonBailey, my apologies for putting this on hold for so long.

**Comment by rudynicolop** [comment]
Ah, I guess I can no longer push to this branch? should I re-open this PR from my fork of Mathlib? Thanks!

**Comment by rudynicolop** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/30391
